US06548671B2
Acetic acid 6-fluoro-6-methyl-1-{2-phenyl-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-3-(4H-[1,2,4]triazol-3-yl)-heptyl ester
To a solution of acetic acid 3-(dimethylaminomethylene-carbamoyl)-6-fluoro-6-methyl-1-{2-phenyl-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-heptyl ester (580 mg, 1.03 mmol) in acetic acid (2.5 mL) was added hydrazine (35 wt. % in water, 0.040 mL). The resulting solution was heated to 50° C. for 4 hours, cooled to ambient temperature, diluted with ethyl acetate, and neutralized with saturated aqueous sodium bicarbonate. The organic later was dried over sodium sulfate, filtered, and concentrated to give the title compound as a white foam (580 mg, >100%).

reactant | acetic acid 3-(dimethylaminomethylene-carbamoyl)-6-fluoro-6-methyl-1-{2-phenyl-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-heptyl ester | 1.03 mmol, 580 mg | CN(C)C=NC(=O)C(CC(C(CC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2N=C1)OC(C)=O)CCC(C)(C)F | C31H38FN5O4
reactant | hydrazine | 0.040 mL | NN | H4N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 2.5 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Acetic acid 6-fluoro-6-methyl-1-{2-phenyl-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-3-(4H-[1,2,4]triazol-3-yl)-heptyl ester | 580 mg, >100% | FC(CCC(CC(C(CC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2N=C1)OC(C)=O)C1=NN=CN1)(C)C | C29H33FN6O3
